US07074799B2
Heat a solution of 3-amino-2′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester (5.0 g, 0.0169 mol) and formamidine acetate (2.8 g, 0.0203 mol) in 2-methoxyethanol at reflux for 8 hours. Cool the mixture and concentrate under reduced pressure to give a dark oil. Dissolve the residue in 10% NaOH and wash the aqueous with ether (3X). Bring the aqueous layer to pH ˜4 using 12N HCl to produce a milky solution. Extract the solution with EtOAc, wash the EtOAc with brine, dry (Na2SO4) and concentrate under reduced pressure to give 7-(2-Trifluoromethyl-phenyl)-3H-quinazolin-4-one as a beige solid.

reactant | 3-amino-2′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester | 0.0169 mol, 5.0 g | COC(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)C(F)(F)F)N | C15H12F3NO2
reactant | formamidine acetate | 0.0203 mol, 2.8 g | C(C)(=O)O.C(=N)N
solvent | 2-methoxyethanol | COCCO | C3H8O2
solvent | NaOH | [OH-].[Na+]
product | 7-(2-Trifluoromethyl-phenyl)-3H-quinazolin-4-one | FC(C1=C(C=CC=C1)C1=CC=C2C(NC=NC2=C1)=O)(F)F | C15H9F3N2O
